US07153878B2
3-(4-Hydroxymethyl-2-methyl-phenyl)-propionic acid methyl ester
A mixture of 3-(4-Hydroxymethyl-2-methyl-phenyl)-acrylic acid methyl ester (4.7 g, 22.8 mmol), Raney nickel (0.668 g) and tetrahydrofuran (618 mL) is shaken under 60 psig. Hydrogen 24 hr. The catalyst is filtered off, and the mixture is concentrated to afford the product as a pale yellow oil, 4.3 g, 91%. The structure is confirmed by 1H NMR spectroscopy.

reactant | 3-(4-Hydroxymethyl-2-methyl-phenyl)-acrylic acid methyl ester | 22.8 mmol, 4.7 g | COC(C=CC1=C(C=C(C=C1)CO)C)=O | C12H14O3
reactant | Hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.668 g | [Ni] | Ni
solvent | tetrahydrofuran | 618 mL | O1CCCC1 | C4H8O
product | 3-(4-Hydroxymethyl-2-methyl-phenyl)-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)CO)C)=O | C12H16O3
